US07615651B2
Preparation of Intermediate (4-Bromo-2,6-difluoro-benzyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-1c)
(4-Bromo-2,6-difluoro-benzyl)-(3-methyl-butyl)-amine (I-1b: 40 g), Boc2O (210 mmol) and potassium carbonate (29 g) were combined in ethyl acetate (250 mL) and the mixture heated to 60° C. After 8 hours, water was added to the reaction mixture and the organic layer was separated, dried over magnesium sulfate, filtered and concentrated. The residue was purified by chromatography on silica gel eluting with 1% to 5% ethyl acetate in heptane to afford the title compound (I-1c).

reactant | (4-Bromo-2,6-difluoro-benzyl)-(3-methyl-butyl)-amine | 40 g | BrC1=CC(=C(CNCCC(C)C)C(=C1)F)F | C12H16BrF2N
reactant | Boc2O | 210 mmol | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 29 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | (4-Bromo-2,6-difluoro-benzyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC(C)C)CC1=C(C=C(C=C1F)Br)F)=O | C17H24BrF2NO2
